US07829560B2
3-Fluoro-5-piperidin-1-yl-N-[4-({2-[(2-pyrrolidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide (Compound B389).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-pyrrolidin-1-yl-ethylamine according to conditions described in general procedure C. Mp: 92-94° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.58 (m, 10 H), 2.20-2.47 (m, 6 H), 2.91 (bs, 2 H), 3.27 (s, 4 H), 6.20-6.32 (m, 1 H), 6.94-6.98 (m, 2 H), 7.15 (d, J=8.4 Hz, 1 H), 7.37 (d, J=8.0 Hz, 1 H), 7.43 (s, 1 H), 7.51-7.61 (m, 3 H), 7.78-7.80 (m, 1 H), 7.96 (d, J=7.3 Hz, 1 H), 8.21 (s 1 H), 10.40 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
product | 3-Fluoro-5-piperidin-1-yl-N-[4-({2-[(2-pyrrolidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCN2CCCC2)C=C(C1)N1CCCCC1 | C32H35FN6O2
